US07365193B2
2,7-Bis-[(S)-1-methylpyrrolidin-2-ylmethoxy]-fluoren-9-one
To a solution of 2,7-dihydroxyfluorenone (150 mg, 0.708 mmol; see Synth. Commun. 1976, 6, 371) and (S)-2-hydroxymethyl-1-methylpyrrolidine (420 μL, 3.54 mmol; Aldrich) in THF (5 mL) was added polymer-bound triphenylphosphine (1.2 g, 3 mmol/g; Aldrich) followed by di-tert-butylazodicarboxylate (800 mg, 3.48 mmol; Aldrich). The mixture was stirred overnight (16 h) at room temperature, then filtered through diatomaceous earth, rinsing with CH2Cl2. After concentrating the solution, the residue was stirred with 4 M HCl in dioxane (5 mL; Aldrich) for 1 h. The reaction mixture then was adjusted to pH>10 with 1 N NaOH, extracted twice with CH2Cl2 and dried over K2CO3. Purification by flash chromatography (35 g silica gel, 2-10% gradient of NH4OH-MeOH (1:10) in CH2Cl2) followed by reverse-phase HPLC (Waters Symmetry C8 40×100 mm column, gradient 5-95% MeCN-0.1% aq. TFA) afforded the title compound (134 mg, 0.329 mmol; 47% yield): MS (DCl/NH3) m/z 407 (M+H)+.

reactant | 2,7-dihydroxyfluorenone | 0.708 mmol, 150 mg | OC=1C(C2=CC3=CC(=CC=C3C2=CC1)O)=O | C13H8O3
reactant | (S)-2-hydroxymethyl-1-methylpyrrolidine | 3.54 mmol, 420 μL | OC[C@H]1N(CCC1)C | C6H13NO
reactant | triphenylphosphine | 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 3.48 mmol, 800 mg | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,7-Bis-[(S)-1-methylpyrrolidin-2-ylmethoxy]-fluoren-9-one | 0.329 mmol, 134 mg, 47% yield | CN1[C@@H](CCC1)COC1=CC=2C(C3=CC(=CC=C3C2C=C1)OC[C@H]1N(CCC1)C)=O | C25H30N2O3
